US04241073
3-n-Butyl-5-(5-Methylthiophen-2-yl methyl) hydantoin
DL-β-(5-Methylthiophen-2-yl)alanine (4.1 g; 0.022 mole) was dissolved in 2 N sodium hydroxide solution (11 ml; 0.022 mole), cooled to 0° C. and n-butyl-isocyanate (3.75 ml; 0.033 mole) added gradually maintaining the temperature at 0° C. for 2 hours. The mixture was allowed to come to room temperature and stirred overnight. The mixture was filtered (solid discarded) and the filtrate washed with ether. The washed filtrate was acidified with concentrated hydrochloric acid (11 ml) and heated on a steam bath for 1 hour. After cooling to room temperature the resultant solid was separated by filtration, water washed and dried. Recrystallisation from ethyl acetate gave the title compound. Yield 4.2 g (72%), m.p. 107° C.

reactant | β-(5-Methylthiophen-2-yl)alanine | 0.022 mole, 4.1 g | CC1=CC=C(S1)C[C@H](N)C(=O)O | C8H11NO2S
reactant | sodium hydroxide | 0.022 mole, 2 N, 11 ml | [OH-].[Na+]
reactant | n-butyl-isocyanate | 0.033 mole, 3.75 ml | C(CCC)N=C=O | C5H9NO
product | 3-n-Butyl-5-(5-Methylthiophen-2-yl methyl) hydantoin | C(CCC)N1C(NC(C1=O)CC=1SC(=CC1)C)=O | C13H18N2O2S
